US08067445B2
Step 3: (3-Hydroxy-5-trifluoromethyl-phenyl)-acetic acid methyl ester
(3-Benzyloxy-5-trifluoromethyl-phenyl)-acetic acid methyl ester (4.8 mmol) in EtOH was treated with 10% palladium on carbon (10% by weight), and stirred under a balloon of H2 at 60° C. overnight. The mixture was filtered to remove the palladium, and then concentrated to give the title compound.

reactant | (3-Benzyloxy-5-trifluoromethyl-phenyl)-acetic acid methyl ester | 4.8 mmol | COC(CC1=CC(=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)=O | C17H15F3O3
solvent | EtOH | CCO | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | (3-Hydroxy-5-trifluoromethyl-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)C(F)(F)F)O)=O | C10H9F3O3
